US05922871
4-(2-Hydroxyethyl)-1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine
By the same procedure as described in the example 19, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid and using 1-(2-hydroxyethyl)piperazine. Then, the product was recrystallized using isopropanol and ether to give the desired compound.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | 1-(2-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
product | 4-(2-Hydroxyethyl)-1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine | Yield: 82% | OCCN1CCN(CC1)C(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C26H36N6O3
